US05807846
2,4,6-Triisopropylbenzylphosphonate dibenzyl ester
Sodium hydride (2.0 g, 50 mmol), was added in portions to dibenzylphosphite (13.0 g, 50 mmol) in tetrahydrofuran (250 mL) at room temperature. When no further reaction was apparent, added 2,4,6-triisopropylbenzyl bromide (14.47 g, 49 mmol) and stirred at room temperature. Stirred overnight at room temperature, added more phosphite anion (11.94 g phosphite, 1.30 g NaH), and stirred over 2 days at room temperature. The reaction mixture was concentrated, the residue was taken up in ethyl acetate, washed with 10% aqueous citric acid solution, brine, dried (magnesium sulfate), filtered, and concentrated to an oil. The oil was chromatographed on silica gel using 4:1 hexanes/ethyl acetate as eluant. The product was obtained as a solid in two portions, 17.47 g, (73%). Analysis calculated for (C30H39O3P).

reactant | Sodium hydride | 50 mmol, 2.0 g | [H-].[Na+]
reactant | dibenzylphosphite | 50 mmol, 13.0 g | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)[O-]
reactant | 2,4,6-triisopropylbenzyl bromide | 49 mmol, 14.47 g | C(C)(C)C1=C(CBr)C(=CC(=C1)C(C)C)C(C)C | C16H25Br
reactant | phosphite | P([O-])([O-])[O-]
reactant | phosphite | 11.94 g | P([O-])([O-])[O-]
reactant | NaH | 1.30 g | [H-].[Na+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 2,4,6-Triisopropylbenzylphosphonate dibenzyl ester | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C30H39O3P
